delta_loaded_network - fault test
Vin A 0 DC 12
Ra A B 849.826106
Rb B C 29.721926
Rc C A 30.116599
Rload B 0 1.048377
.op
.control
run
print v(A) v(B) v(C)
print @ra[i] @rb[i] @rc[i] @rload[i]
.endc
.end
